US04256759
To the suspension of 1,135 g of 1-methyl-β-oxo-2-pyrrolpropionitrile in 17,000 ml of dry toluene, 913 g of anhydrous triethylamine are added, followed by 913 g of phenylisocyanate while stirring under nitrogen. The dark brown solution formed is stirred at room temperature overnight and evaporated at 60°-70°/10 mm Hg. The residue is taken up in 1,400 ml of methanol and the solution treated with 1,400 ml of 6 N hydrochloric acid in 4,200 ml of water. The suspension is cooled to 15°-20° for 20 minutes, filtered and the residue washed twice with 1,800 ml of water, twice with 1,000 ml of isopropanol and 13 times with 1,000 ml of diethyl ether. This crude residue is dried at 60° and 5 mm Hg to constant weight and 1,960 g thereof are dissolved in 44,400 ml of methylene chloride at room temperature. The solution is treated with 400 g of activated charcoal, filtered and the filtrate evaporated. The residue is triturated with 12,000 ml of anhydrous ethanol, the suspension filtered at 20°, washed 4 times with 1,000 ml of anhydrous ethanol and dried at 60° and 5 mm Hg, to yield the 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile melting at 172°-174°, it is identical with that of Examples 1, 6 or 9.

reactant | 1-methyl-β-oxo-2-pyrrolpropionitrile | 1,135 g | CN1C(=CC=C1)C(CC#N)=O | C8H8N2O
reactant | triethylamine | 913 g | C(C)N(CC)CC | C6H15N
reactant | phenylisocyanate | 913 g | C1(=CC=CC=C1)N=C=O | C7H5NO
solvent | toluene | 17,000 ml | C1(=CC=CC=C1)C | C7H8
product | 1-methyl-β-oxo-α-phenylcarbamoyl-2-pyrrolpropionitrile | CN1C(=CC=C1)C(C(C#N)C(NC1=CC=CC=C1)=O)=O | C15H13N3O2
